US06667316B1
A mixture of 7-amino-2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]isoindolin-1-one (1.0 g, 2 mmol), and dimethylamine in tetrahydrofuran (3.6 mL, 2N, 7.2 mmol) in acetonitrile (25 mL) was stirred at room temperature overnight. The solvent was removed in vacuo to give a solid. The solid was recrystallized from ethanol (10 mL) to give a white solid. To stirred solution of the solid in ethyl acetate (10 mL) was added hydrogen chloride in ether (2.5 mL, 1N). After 5 min, ether (10 mL) was added to give a suspension. The suspension was filtered and the solid washed with ether to give 2-(dimethylamino)-N-{2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]-3-oxoisoindolin-4-yl}acetamide hydrogen chloride as a yellow solid (780 mg, 74% yield); mp, 145-147° C.; 1H NMR (DMSO-d6) δ1.32 (t, J=7 Hz, 3H, CH3), 2.87 (brs, 6H, 2CH3), 3.03 (s, 3H, CH3), 3.73 (s, 3H, CH3), 3.92-4.05 (m, 3H, CHH, CH2), 4.17 (d, J=17.9 Hz, 1H, CHH), 4.31-4.41 (m, 3H, CH2, CHH), 4.68 (d, J=17.9 Hz, 1H, CHH), 5.88 (dd, J=3.5, 10.7 Hz, 1H, NCH), 6.91-6.98 (m, 2H, Ar), 7.02 (s, 1H, Ar), 7.31 (d, J=7.3 Hz, 1H, Ar), 7.59 (t, J=7.9 Hz, 1H, Ar), 8.15 (d, J=8.0 Hz, 1H, Ar), 10.17 (s, 1H, HCl), 10.53 (s, 1H, NH); 13C NMR (DMSO-d6) δ14.72, 40.99, 43.40, 46.20, 48.81, 53.69, 55.32, 58.11, 63.93, 111.98, 112.16, 118.19, 118.58, 119.16, 119.76, 130.01, 133.01, 135.29, 142.55, 148.07, 148.88, 163.88, 167.45; Anal Calcd for C24H31N3O6S+1.1 HCl+1.5 H2O: C, 51.78; H, 6.35; N, 7.55; Cl, 7.00; H2O, 4.85. Found: C, 51.58; H, 6.13; N, 7.39; Cl, 6.87; H2O, 3.34.

reactant | 7-amino-2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]isoindolin-1-one | 2 mmol, 1.0 g | NC=1C=CC=C2CN(C(C12)=O)C(CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC | C20H24N2O5S
reactant | dimethylamine | CNC | C2H7N
reactant | tetrahydrofuran | 7.2 mmol, 2N, 3.6 mL | O1CCCC1 | C4H8O
reactant | hydrogen chloride | Cl | ClH
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ether | 1N, 2.5 mL | CCOCC | C4H10O
solvent | ether | 10 mL | CCOCC | C4H10O
product | 2-(dimethylamino)-N-{2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]-3-oxoisoindolin-4-yl}acetamide hydrogen chloride | 780 mg, 74% yield | Cl.CN(CC(=O)NC1=C2C(N(CC2=CC=C1)C(CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC)=O)C | InChI=1S/C24H31N3O6S.ClH/c1-6-33-21-12-16(10-11-20(21)32-4)19(15-34(5,30)31)27-13-17-8-7-9-18(23(17)24(27)29)25-22(28)14-26(2)3;/h7-12,19H,6,13-15H2,1-5H3,(H,25,28);1H
